US07723378B2
To a solution of 5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (669 mg, 2.35 mmol) in diethyl ether (20 mL), a solution of methyllithium (2.6 mL, 1.6 M in diethyl ether) is added at rt. The reaction mixture is stirred at rt for 4 h, diluted with diethyl ether, washed with 1 N aq. K2HPO4 solution followed by 1 N aq. NaOH, dried over Na2SO4 and evaporated to give 1-(5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (458 mg) as a yellow oil, LC-MS: tR=1.15 min, [M+1]=283.1; 1H NMR(CDCl3): δ 2.96 (t, J=7.0 Hz, 2H), 2.53 (s, 3H), 2.45 (s, 3H), 2.32 (s, 2H), 1.56 (t, J=7.0 Hz, 2H), 1.35-1.20 (m, 4H), 0.83 (t, J=7.6 Hz, 6H).

reactant | 5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 2.35 mmol, 669 mg | C(C)C1(CC=2C(=C(SC2SC)C(=O)O)CC1)CC | C14H20O2S2
reactant | methyllithium | 1.6 M, 2.6 mL | C[Li]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(5,5-diethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 458 mg | C(C)C1(CC=2C(=C(SC2SC)C(C)=O)CC1)CC | C15H22OS2
